US05935952
In 66 ml of dimethyl sulfoxide was dissolved 13.2 g of ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoate, and to this solution was added 7.3 g of sodium azide, after which the resulting mixture was stirred at room temperature for five hours. The reaction mixture was added to a mixed solvent of 150 ml of ethyl acetate and 150 ml of ice water and the pH was adjusted to 2 with 6N hydrochloric acid, after which the organic layer formed was separated, then washed successively with water and a saturated saline solution, and thereafter dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluent: n-hexane:ethyl acetate=10:1), to obtain 13.9 g of colorless, oily ethyl 4-azido-2,5-difluoro-3-difluorome-thoxybenzoate.

reactant | ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoate | 13.2 g | FC(OC=1C(=C(C(=O)OCC)C=C(C1F)F)F)F | C10H7F5O3
reactant | sodium azide | 7.3 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dimethyl sulfoxide | 66 ml | CS(=O)C | C2H6OS
product | ethyl 4-azido-2,5-difluoro-3-difluorome-thoxybenzoate | N(=[N+]=[N-])C1=C(C(=C(C(=O)OCC)C=C1F)F)OC(F)F | C10H7F4N3O3
